US06127368
2741 mg of 6-acetylamino-4-ethyl-β-carboline-3-carboxylic acid isopropyl ester is heated to 70° C. in 110 ml of dioxane with 3915 mg of Lawesson's reagent while being stirred. After cooling, it is mixed with 100 ml of ethyl acetate and washed with saturated sodium chloride solution. The organic phases are dried and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel with toluene+methanol=8+2. 1541 mg of 4-ethyl-6-thioacetylamino-β-carboline-3-carboxylic acid isopropyl ester with a melting point of 158-160° C. is obtained from the desired fractions.

reactant | 6-acetylamino-4-ethyl-β-carboline-3-carboxylic acid isopropyl ester | 2741 mg | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1CC)NC(C)=O | C19H21N3O3
reactant | Lawesson's reagent | 3915 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 110 ml | O1CCOCC1 | C4H8O2
product | 4-ethyl-6-thioacetylamino-β-carboline-3-carboxylic acid isopropyl ester | 1541 mg | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1CC)NC(C)=S | C19H21N3O2S
